US09079865B2
Synthesis of (Z)-1-(3,3-difluoroazetidin-1-yl)-3-iodoprop-2-en-1-one
In a 25-mL, three-necked, round-bottomed flask equipped with nitrogen inlet and a rubber septum, (Z)-3-iodoacrylic acid (0.250 g, 1.0 eq.) was dissolved in DCM (10 mL, 40 V). The reaction mixture was cooled to 0° C., and DIPEA (0.168 g, 1.1 eq), HATU (0.494 g, 1.1 eq) and 3,3-difluoroazetidine hydrochloride (0.179 g, 1.1) were added. The reaction mixture was stirred at 0° C. for 2-3 hr. The progress of the reaction was followed by TLC analysis on silica gel with 40% ethyl acetate in hexane. The reaction mixture was filtered and concentrated by rotary evaporation (25° C., 20 mmHg) to afford 0.3 g of crude compound which was purified by column chromatography using silica 60/120 using 40% ethyl acetate in hexane as mobile phase. The column (5×10 cm) was packed in 5% ethyl acetate in hexane and started eluting in ethyl acetate in gradient manner starting with fraction collection (50-mL fractions) from 20% to 30% ethyl acetate in hexane. Compound started eluting with 20% ethyl acetate in hexane. Fractions containing such TLC profile were combined to obtain 0.18 g of desired compound (yield 52.33%). Mass: [M+H]+: 273.8.

reactant | (Z)-3-iodoacrylic acid | 0.250 g, 1.0 eq. | I\C=C/C(=O)O | C3H3IO2
reactant | DIPEA | 0.168 g, 1.1 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.494 g, 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3,3-difluoroazetidine hydrochloride | 0.179 g | Cl.FC1(CNC1)F
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-1-(3,3-difluoroazetidin-1-yl)-3-iodoprop-2-en-1-one | 0.18 g, yield 52.33% | FC1(CN(C1)C(\C=C/I)=O)F | C6H6F2INO
